US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indole-7-carboxylic acid methyl ester
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 1H-indole-7-carboxylic acid methyl ester, the title compound is prepared as in example 1. 103 mg (75%). LC-MS m/z 338.1 (M++1).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 1H-indole-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=C2C=CNC12 | C10H9NO2
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indole-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC | C21H20FNO2
